US07718693B2
To a solution of (2,4-dichlorophenyl)methyl isocyanide (0.094 g, 0.5 mmol) and 3,3-dimethyl-4-oxobutanoic acid (0.065 mg, 0.5 mmol, prepared as described below) in methanol (2 ml) was added methylamine (0.080 ml, 33% solution in ethanol). The mixture was heated to 100° C. for 30 minutes in a microwave reactor. The solvent was removed in vacuo and the residue was purified by mass-directed automated HPLC to give a colourless gum which was triturated with diethyl ether to give N-[(2,4-dichlorophenyl)methyl]-1,3,3-trimethyl-5-oxoprolinamide (0.043 g) as a sticky white solid.

reactant | (2,4-dichlorophenyl)methyl isocyanide | 0.5 mmol, 0.094 g | ClC1=C(C=CC(=C1)Cl)C[N+]#[C-] | C8H5Cl2N
reactant | 3,3-dimethyl-4-oxobutanoic acid | 0.5 mmol, 0.065 mg | CC(CC(=O)O)(C=O)C | C6H10O3
reactant | methylamine | 0.080 ml | CN | CH5N
reactant | methanol | 2 ml | CO | CH4O
product | N-[(2,4-dichlorophenyl)methyl]-1,3,3-trimethyl-5-oxoprolinamide | 0.043 g | ClC1=C(C=CC(=C1)Cl)CNC([C@H]1N(C(CC1(C)C)=O)C)=O | C15H18Cl2N2O2
